US07300931B2
N(3-benzyloxy-benzyl)-4-biphenylacetamide
To a solution of 4-biphenyl acetic acid (2.29 g, 10.45 mmol) in dimethylformamide, DMF, (30 ml) was added diisopropylethylamine, DIEA, (5.47 ml, 31.35 mmol) and stirred at room temperature for 15 min, then benzotriazolyloxy-tris[pyrrolidino]-phosphonium hexafluorophosphate, PyBOP™, (5.43 g, 10.45 mmol) was added and the stirring was continued for further 30 min, then 3-benzyloxybenzylaminehydrochloride (2.6 g, 10.45 mmol) was added and the stirring continued for 24 hrs. The reaction mixture was then poured on to ice cooled water acidified with (10 ml) 1 N HCl and extracted with ethyl acetate (100 ml) and the organic layer washed with saturated solution of NaHCO3, water and brine, dried over Na2SO4 and the solvent removed under vacuum to give a yellowish-white powder of the desired compound (2.65 g) 62% yield.

reactant | 4-biphenyl acetic acid | 10.45 mmol, 2.29 g | C1(=CC=C(C=C1)CC(=O)O)C1=CC=CC=C1 | C14H12O2
reactant | diisopropylethylamine | C(C)(C)N(CC)C(C)C | C8H19N
reactant | DIEA | 31.35 mmol, 5.47 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | benzotriazolyloxy-tris[pyrrolidino]-phosphonium hexafluorophosphate | F[P-](F)(F)(F)(F)F.N1N=NC2=C1C=CC=C2O[P+](N2CCCC2)(N2CCCC2)N2CCCC2
reactant | PyBOP | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | 3-benzyloxybenzylaminehydrochloride | 10.45 mmol, 2.6 g | Cl.C(C1=CC=CC=C1)OC=1C=C(CN)C=CC1
reactant | HCl | 1 N, 10 ml | Cl | ClH
solvent | dimethylformamide | CN(C=O)C | C3H7NO
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | N(3-benzyloxy-benzyl)-4-biphenylacetamide | 2.65 g, 62% yield | C(C1=CC=CC=C1)OC=1C=C(CNC(CC2=CC=C(C=C2)C2=CC=CC=C2)=O)C=CC1 | C28H25NO2
